US04889869
(a) 2(S)-benzyloxycarbonylamino-3-cyclohexyl-propionic acid ethyl ester
243 g of 2(S)-benzyloxycarbonylamino-3-cyclohexylpropionic acid (manufacture: Helvetica Chimica Acta 57. 2131(1974)) are placed in 600 ml of toluene and 900 ml of ethanol. The reaction mixture is cooled to 0° and 88.3 g of thionyl chloride are added dropwise within 30 minutes. The cooling is removed and the mixture is stirred for 18 hours. The reaction mixture is filtered and the filtrate is concentrated. The residue is separated by means of flash chromatography (2 kg of silica gel 60, 40-63 μm, eluant F). The product-containing fractions are combined, concentrated by evaporation and dried under a high vacuum. The title compound is obtained in the form of a slightly yellowish oil. Rf (F)=0.2; Rf (B)=0.52.

reactant | 2(S)-benzyloxycarbonylamino-3-cyclohexylpropionic acid | 243 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1CCCCC1 | C17H23NO4
reactant | thionyl chloride | 88.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | 2(S)-benzyloxycarbonylamino-3-cyclohexyl-propionic acid ethyl ester | C(C)OC([C@H](CC1CCCCC1)NC(=O)OCC1=CC=CC=C1)=O | C19H27NO4
